US08304419B2
2-amino-4-chloro-N-({3-[(3-chloro-5-cyanophenyl)oxy]-4-ethyl-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide
A solution of 3-{[3-(aminomethyl)-6-ethyl-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.075 g, 0.246 mmol), 2-azido-4-chloro-1H-imidazole-5-carboxylic acid (0.051 g, 0.271 mmol), EDC (0.052 g, 0.271 mmol) and HOBT (0.041 g, 0.271 mmol) in DMF (4 ml) was stirred at RT under an atmosphere of nitrogen for 16 h then ethyl acetate (100 mL) and saturated aqueous NaHCO3 solution (100 mL) were added. The organic layer was separated, washed with saturated aqueous NaHCO3 solution (100 mL), water (100 mL), dried over MgSO4, filtered and concentrated. Ethyl acetate (20 mL) and Lindlar Catalyst (0.026 g, 0.247 mmol) were added and the mixture was stirred at RT under an atmosphere of hydrogen (55 psig) for 19 h. The vessel was carefully vented and the mixture was filtered thru Celite, concentrated purified by Reverse Phase HPLC (MeCN/water+0.1% TFA) to give the title compound (0.059 g, 51%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.93 (s, 1H), 7.77 (t, 1H), 7.70 (t, 1H), 7.39 (s, 1H), 7.33 (t, 1H), 7.18-7.29 (m, 2H), 5.81 (s, 2H), 4.47 (d, 2H), 2.47-2.54 (m, 2H), 1.08 (t, 3H). LCMS m/z 450.1 (M+H).

reactant | 3-{[3-(aminomethyl)-6-ethyl-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.246 mmol, 0.075 g | NCC=1C(=C(C(=CC1)CC)OC=1C=C(C#N)C=C(C1)Cl)F | C16H14ClFN2O
reactant | 2-azido-4-chloro-1H-imidazole-5-carboxylic acid | 0.271 mmol, 0.051 g | N(=[N+]=[N-])C=1NC(=C(N1)Cl)C(=O)O | C4H2ClN5O2
reactant | EDC | 0.271 mmol, 0.052 g
reactant | HOBT | 0.271 mmol, 0.041 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
catalyst | Lindlar Catalyst | 0.247 mmol, 0.026 g | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | Ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-amino-4-chloro-N-({3-[(3-chloro-5-cyanophenyl)oxy]-4-ethyl-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide | 0.059 g, 51% | NC=1NC(=C(N1)Cl)C(=O)NCC1=C(C(=C(C=C1)CC)OC1=CC(=CC(=C1)C#N)Cl)F | C20H16Cl2FN5O2
